US05618821
A solution of 1-methyl-2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-butyl]-7-azaindole (580 mg, 1.49 mmol) in 16.5 ml of trifluoroacetic acid was added in portions at 0° C. 1.88 g (29.7 mmol) of sodium borohydride. The mixture was stirred at 20° C. for 30 min and then heated at 55°-60° C. for 72 h. To the above mixture was added water, 2N NaOH solution (to pH=8), and the resulting mixture was extracted with methylene chloride. The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica column chromatography (10 cm column, methylene chloride/acetone, 30/1-6/1) to yield 193 mg (33%) of 1-methyl-2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-butyl]-2,3-dihydro-7-azaindole, as a solid, m.p. 54°-57° C.

reactant | 1-methyl-2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-butyl]-7-azaindole | 1.49 mmol, 580 mg | CN1C(=CC2=CC=CN=C12)CCCCOC1=C(C=C(C=C1C)C=1N=NN(N1)C)C | C22H26N6O
reactant | sodium borohydride | 29.7 mmol, 1.88 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | NaOH | 2N, pH=8 | [OH-].[Na+]
solvent | trifluoroacetic acid | 16.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-methyl-2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-butyl]-2,3-dihydro-7-azaindole | 193 mg, 33% | CN1C(CC2=CC=CN=C12)CCCCOC1=C(C=C(C=C1C)C=1N=NN(N1)C)C | C22H28N6O
